US07572809B2
A mixture of (6-benzyloxy-1-isopropoxy-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (300 mg), 10% Pd/C (50 mg) and MeOH (80 ml) was shaken in Parr apparatus for 5 hs under 30-40 psi of hydrogen at room temperature. Then the mixture was passed through a celite pad and the filtrate was concentrated and dried to give 1-Isopropoxy-7-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol (250 mg). LC-MS: m/e 329 (MH+).

reactant | (6-benzyloxy-1-isopropoxy-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 300 mg | C(C1=CC=CC=C1)OC=1C=C2C=C(N=C(C2=CC1OC)OC(C)C)NC1=NNC(=C1)C | C24H26N4O3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 50 mg | [Pd] | Pd
solvent | MeOH | 80 ml | CO | CH4O
product | 1-Isopropoxy-7-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | 250 mg | C(C)(C)OC1=NC(=CC2=CC(=C(C=C12)OC)O)NC1=NNC(=C1)C | C17H20N4O3
